US06448031B1
Production of pGlu-His-Trp-Ser-Tyr-D-Trp-Leu-Arg-Pro-Gly-NH2-(SEQ ID NO:1)
Subsequently, the obtained Boc-Gly-MBHA resin was washed with 8 mL of DCM (4 times, 1 minute each) and then it was filtered. After that the product was treated with stirring in turn with 8 mL of DCM solution containing 60% TFA (20 minutes), 4 mL of DCM (3 times, 15 seconds each), 3 mL of DMF solution containing 1 mL of DIEA (twice, 1 minute each), and 8 mL of DMF (6 times, 40 seconds each) under argon stream. In addition, filtration was performed at each treatment. Next, 2 mmole of Boc-Pro-OH corresponding to the ninth amino acid residue of the amino acid sequence of pGlu-His-Trp-Ser-Tyr-D-Trp-Leu-Arg-Pro-Gly-dissolved in 4 mL of DCM. DCC (0.5M-DCM solution) 1.5 mL was added to the solution in an amino acid activation container, then the solution was allowed to react for 7 minutes. After that, the reaction mixture was filtered and transferred to a concentration container. Then 3 mL of DMF was added to the reaction mixture, and the DCM was distilled off under argon stream. Next the residue to which 3 mL of DMF was added was transferred to said reaction vessel for peptide solid phase synthesis, then allowed to react for 30 minutes. Subsequently the product was washed with 8 mL of DCM (6 times, 20 seconds each), then filtered, thereby obtaining Boc-Pro-Gly-MBHA resin.

reactant | Boc-Pro-OH | 2 mmole | N1([C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | pGlu-His-Trp-Ser-Tyr-D-Trp-Leu-Arg-Pro-Gly | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC(=O)O)CCC1 | C64H81N17O14
reactant | DCC | 0.5M, 1.5 mL | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | pGlu-His-Trp-Ser-Tyr-D-Trp-Leu-Arg-Pro-Gly-NH2 | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC(=O)N)CCC1 | C64H82N18O13
